US08110687B2
To a solution of 3-bromo-5-(trifluoromethyl)benzoic acid (12.43 g, 0.04620 mol) in MeOH (200 mL) was added H2SO4 (8 mL). The reaction mixture was heated at reflux overnight and then concentrated to small volume. The residue was extracted with EtOAc and washed with water, brine, aq. sat. NaHCO3, and brine. The organic solution was concentrated to give methyl 3-bromo-5-(trifluoromethyl)benzoate (12.7 g, 92%). 1H NMR (300 MHz, CDCl3) δ: 8.36 (s, 1H), 8.23 (s, 1H), 7.95 (s, 1H), and 3.97 (s, 3H).

reactant | 3-bromo-5-(trifluoromethyl)benzoic acid | 0.04620 mol, 12.43 g | BrC=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C8H4BrF3O2
reactant | H2SO4 | 8 mL | OS(=O)(=O)O | H2O4S
reactant | MeOH | 200 mL | CO | CH4O
product | methyl 3-bromo-5-(trifluoromethyl)benzoate | 12.7 g, 92% | BrC=1C=C(C(=O)OC)C=C(C1)C(F)(F)F | C9H6BrF3O2
